US07951787B2
(E-5-(2-Carboxyvinyl)-2′-deoxyuridine
(E)-5-(2-carbomethoxyvinyl)-2′-deoxyuridine (6.0 g, 19.33 mmol) was dissolved in 300 mL of 1 M NaOH and the mixture stirred at room temperature for 3 hrs, filtered and the filtrate adjusted to pH 2 with 1M HCl. On cooling at 4° C. a white precipitate formed. This was filtered off and washed with cold water (2×20 ml) and acetone (2×20 mL) and dred to give a white solid (4.441 g, yield 77.1%).

reactant | (E)-5-(2-carbomethoxyvinyl)-2′-deoxyuridine | 19.33 mmol, 6.0 g | C(=O)(OC)/C=C/C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C13H16N2O7
solvent | NaOH | 1 M, 300 mL | [OH-].[Na+]
product | E-5-(2-Carboxyvinyl)-2′-deoxyuridine | 4.441 g, yield 77.1% | C(=O)(O)/C=C/C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C12H14N2O7
